US04472433
A mixture of ethyl 2-(2-nitro-3-chlorophenyl)acetate (10 g.), 2,3-dichlorophenol (7.4 g.), anhydrous potassium carbonate (8.5 g.) and cupric oxide (1 g.) was treated in a similar manner to the above to give 2-[2-nitro-3-(2,3-dichlorophenoxy)phenyl]acetic acid (4.1 g.). mp 178° to 183° C.

reactant | ethyl 2-(2-nitro-3-chlorophenyl)acetate | 10 g | [N+](=O)([O-])C1=C(C=CC=C1Cl)CC(=O)OCC | C10H10ClNO4
reactant | 2,3-dichlorophenol | 7.4 g | ClC1=C(C=CC=C1Cl)O | C6H4Cl2O
reactant | potassium carbonate | 8.5 g | C([O-])([O-])=O.[K+].[K+]
product | 2-[2-nitro-3-(2,3-dichlorophenoxy)phenyl]acetic acid | 4.1 g | [N+](=O)([O-])C1=C(C=CC=C1OC1=C(C(=CC=C1)Cl)Cl)CC(=O)O | C14H9Cl2NO5
